US08466155B2
c) N-[(1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-yl]-N-methyl-methanesulphonamide
N-[(1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-yl]-methanesulphonamide (0.50 g) is dissolved in 2 mL DMF and mixed with Cs2CO3 (0.96 g, 2.93 mmol) and MeI (0.10 mL). The reaction mixture is stirred for 2 h and, once the reaction has ended, combined with DCM and NaOH (1 N). The organic phase is dried on MgSO4 and freed from the solvent using the rotary evaporator. After dissolving in acetonitrile water is added. The precipitate formed is filtered off, washed with water and taken up in DCM. After drying on MgSO4 the solvent is eliminated using the rotary evaporator.

reactant | N-[(1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-yl]-methanesulphonamide | 0.50 g | C(C)(C)(C)[Si](O[C@H]1[C@@H](C2=CC=CC=C2C1)NS(=O)(=O)C)(C)C | C16H27NO3SSi
reactant | Cs2CO3 | 2.93 mmol, 0.96 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | MeI | 0.10 mL | CI | CH3I
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[(1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-yl]-N-methyl-methanesulphonamide | C(C)(C)(C)[Si](O[C@H]1[C@@H](C2=CC=CC=C2C1)N(S(=O)(=O)C)C)(C)C | C17H29NO3SSi
